US05157047
Preparation of 4-(p-Chlorophenyl)-2-trifluoromethyl-2-oxazolin-5-one
In a single portion, trifluoroacetic anhydride, (1.7 mL; 0.012 mol) is added to powdered 2-(p-chlorophenyl)glycine (11.4 g; 0.06 mol), causing an immediate exotherm to about 40° C., a yellow color forms on the surface of the solid. As the mixture is slowly heated to 70° C., more of the solid dissolves to an orange/amber oil. All the solid dissolves in approximately 2 hours, and heating is continued another hour. Solvent is removed under reduced pressure on a rotary evaporator. Toluene is twice added and removed under reduced pressure, but the odor of trifluoroacetic acid is still evident. This yellow semi-solid (yield theoretical; purity>90% by HPLC) is the above-identified compound and is used in the next step without further purification.

reactant | trifluoroacetic anhydride | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | 2-(p-chlorophenyl)glycine | 0.06 mol, 11.4 g | ClC1=CC=C(C=C1)C(N)C(=O)O | C8H8ClNO2
product | 4-(p-Chlorophenyl)-2-trifluoromethyl-2-oxazolin-5-one | ClC1=CC=C(C=C1)C1N=C(OC1=O)C(F)(F)F | C10H5ClF3NO2
